US05019377
A 50:50 (weight percent) methoxyethylacrylate/N,N-dimethylacrylamide copolymer is prepared as follows. Equal amounts of N,N-dimethylacrylamide and methoxyethylacrylate are weighed out and added to a three neck flask fitted with an argon sparge, mechanical stirrer and condenser. Toluene is then added to the flask to get a final monomer concentration of 20.0 weight percent. The reaction flask is placed in a 60° C. water bath and the reaction mixture is sparged with argon for two hours while stirring. After two hours, azobisisobutyronitrile ("AIBN") is added to the reaction flask in an amount sufficient to get a final initiator concentration of 0.05 weight percent. The reaction is then stirred for two hours, after which time the reaction flask is removed from the water bath and the reaction mixture is poured into a container of hexane to precipitate the copolymer. The copolymer is then removed from the hexane, placed in a polyethylene tray, and dried in a vacuum oven at 30° C. In order to remove any residual monomer, the dried copolymer is dissolved in toluene, reprecipitated in hexane, and then dried again in a vacuum oven.

reactant | N,N-dimethylacrylamide | CN(C(C=C)=O)C | C5H9NO
reactant | methoxyethylacrylate | COCCOC(C=C)=O | C6H10O3
product | methoxyethylacrylate N,N-dimethylacrylamide | COCCOC(C=C)=O.CN(C(C=C)=O)C | InChI=1S/C6H10O3.C5H9NO/c1-3-6(7)9-5-4-8-2;1-4-5(7)6(2)3/h3H,1,4-5H2,2H3;4H,1H2,2-3H3
